US08227622B2
In reaction vessel 1, potassium hydroxide (11.78 g, 10.0 g corrected for assay, 178 mmol)) was dissolved in water (72 mL) with stirring (highly exothermic) then the solution was cooled back to 20° C. 1,3-cyclohexanedione (20.0 g, 178 mmol) was added (exothermic addition) and the resulting dark red solution was stirred at 20° C. for 5 mins. Redistilled chloroacetone (18.9 g, 17.0 g corrected for assay, 184 mmol) was added in one portion, rinsing in with ethanol (18 mL) and the reaction mixture was stirred overnight at 20° C. The resulting solution of 2-(2-oxopropyl)cyclohexane-1,3-dione, volume 124 mL, was split into 4 equal portions. Glycine ethyl ester hydrochloride (6.85 g, 49.0 mmol), anhydrous sodium acetate (4.02 g, 49.0 mmol), water (26.5 mL) and ethanol (5.0 mL) were charged to reaction vessel 2 and stirring started. One portion of the solution of 2-(2-oxopropyl)cyclohexane-1,3-dione prepared above (31 mL) was then added to the contents of reaction vessel 2 with stirring and the resulting mixture was heated to 75° C., held at this temperature for 2 h, then cooled to 20° C. over 55 mins. After stirring overnight at 20° C., the solid was collected by filtration, washed with water (10 mL), tert-butyl methyl ether (2×10 mL) and then dried in vacuo 40° C. for 20 h to provide (2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)-acetic acid ethyl ester as a beige solid, 5.88 g (56.0% yield). MP 101.2 to 103.5° C. Assay by 1H-NMR 95.3% w/w. Purity by GC 99.25 area %.

reactant | potassium hydroxide | 178 mmol, 11.78 g | [OH-].[K+]
reactant | 1,3-cyclohexanedione | 178 mmol, 20.0 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | chloroacetone | 184 mmol, 18.9 g | ClCC(C)=O | C3H5ClO
reactant | Glycine ethyl ester hydrochloride | 49.0 mmol, 6.85 g | Cl.C(C)OC(CN)=O
reactant | sodium acetate | 49.0 mmol, 4.02 g | C(C)(=O)[O-].[Na+]
reactant | 2-(2-oxopropyl)cyclohexane-1,3-dione | O=C(CC1C(CCCC1=O)=O)C | C9H12O3
solvent | water | 72 mL | O | H2O
solvent | water | 26.5 mL | O | H2O
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | (2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)-acetic acid ethyl ester | 56.0% yield | C(C)OC(CN1C(=CC=2C(CCCC12)=O)C)=O | C13H17NO3
